US05900475
Preparation of (3-chloropropyl)decyldimethylammonium bromide
Into a 1000 mL, round-bottomed flask equipped with air condensers and a magnetic stirring plate was charged N,N-dimethyldecylamine (200.0 grams, 1.08 moles), 1-bromo-3-chloropropane (170 grams, 1.08 moles) and methanol (200 mL). The reaction was maintained at 65° C. for 18 hours. Solvent was removed by rotary evaporation under reduced pressure and furthermore with high vacuum distillation to yield brown oil. The oil was placed in a beaker and stirred with hexane/t-butylmethylether 1:1 solution (400 mL) causing a white precipitate The solids were collected by vacuum filtration. Solids were dried in a vacuum oven at 30° C. overnight. Yield 305.0 grams (0.089 moles, 82%).

reactant | N,N-dimethyldecylamine | 1.08 moles, 200.0 grams | CN(C)CCCCCCCCCC | C12H27N
reactant | 1-bromo-3-chloropropane | 1.08 moles, 170 grams | BrCCCCl | C3H6BrCl
reactant | methanol | 200 mL | CO | CH4O
solvent | hexane t-butylmethylether | CCCCCC.C(C)(C)(C)OC
product | (3-chloropropyl)decyldimethylammonium bromide | [Br-].ClCCC[N+](C)(C)CCCCCCCCCC | InChI=1S/C15H33ClN.BrH/c1-4-5-6-7-8-9-10-11-14-17(2,3)15-12-13-16;/h4-15H2,1-3H3;1H/q+1;/p-1
